US04192669
Into a solution of 3.61 g. (0.01 mole) of 2-[[4-[4-(trifluoromethoxy)phenoxy]phenoxy]]propanoyl chloride in 20 ml. of tetrahydrofuran (THF) is passed a stream of gaseous methylamine. When the reaction is over, the solvent is removed and the residue treated with methylene chloride. The methylene chloride solution is washed with water, dried, and the solvent removed, providing a residue of 2-[[4-[4-(trifluoromethoxy)phenoxy]phenoxy]]propanoic acid, N-methyl amide.

reactant | 2-[[4-[4-(trifluoromethoxy)phenoxy]phenoxy]]propanoyl chloride | 0.01 mole | FC(OC1=CC=C(OC2=CC=C(OC(C(=O)Cl)C)C=C2)C=C1)(F)F | C16H12ClF3O4
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-[[4-[4-(trifluoromethoxy)phenoxy]phenoxy]]propanoic acid, N-methyl amide | CNC(C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)OC(F)(F)F)=O | C17H16F3NO4
